US06344449B1
c) 4-[[[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]amino]methyl]-3-(ethoxycarbonylamino)-thiophene
A mixture of 28.2 g (0.142 mol) of 4-(ethoxycarbonyl-amino)-thiophene-3-carboxaldehyde, 28.2 g (0.141 mol) of 4-amino-1-(1,1-dimethyl-ethoxycarbonyl)piperidine and 300 ml of toluene was refluxed using a water separator until water formation had ceased. The solvent was removed in vacuo, the residue was dissolved in 300 ml of methanol and at room temperature combined batchwise with 5.5 g (0.145 mol) of sodium borohydride. The mixture was stirred for a further hour at room temperature, then evaporated down in vacuo and the residue was distributed between water and tert. butyl-methylether. The organic phase was dried over sodium sulphate and freed from solvent in vacuo. The oily residue was further processed without purification.

reactant | 4-(ethoxycarbonyl-amino)-thiophene-3-carboxaldehyde | 0.142 mol, 28.2 g | C(C)OC(=O)NC=1C(=CSC1)C=O | C8H9NO3S
reactant | 4-amino-1-(1,1-dimethyl-ethoxycarbonyl)piperidine | 0.141 mol, 28.2 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium borohydride | 0.145 mol, 5.5 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 4-[[[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]amino]methyl]-3-(ethoxycarbonylamino)-thiophene | CC(C)(OC(=O)N1CCC(CC1)NCC=1C(=CSC1)NC(=O)OCC)C | C18H29N3O4S
